US06420385B1
2-(2,6-Dichlorobenzyl)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone:
Methyl iodide (41 ml, 0.65 mmol) was added to a stirring mixture of 2-(2,6-dichlorobenzyl)-5-(4-fluorophenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone (280 mg, 0.61 mmol) and potassium carbonate (181 mg, 1.30 mmol) in N,N-dimethylformamide (2 ml). Stirring was continued for 2 h, followed by evaporation and flash chromatography of the resulting product on a column of silica gel (hexane-acetone=3:1) to yield the title compound as a white solid. MS (m/z): 440.2 (M+H)+; C23H16Cl2FN3O requir. 440.3.

reactant | Methyl iodide | 0.65 mmol, 41 ml | CI | CH3I
reactant | 2-(2,6-dichlorobenzyl)-5-(4-fluorophenyl)-6-(4-pyridyl)-4(3H)-pyrimidinone | 0.61 mmol, 280 mg | ClC1=C(CC2=NC(=C(C(N2)=O)C2=CC=C(C=C2)F)C2=CC=NC=C2)C(=CC=C1)Cl | C22H14Cl2FN3O
reactant | potassium carbonate | 1.30 mmol, 181 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(2,6-Dichlorobenzyl)-5-(4-fluorophenyl)-3-methyl-6-(4-pyridyl)-4(3H)-pyrimidinone | ClC1=C(CC2=NC(=C(C(N2C)=O)C2=CC=C(C=C2)F)C2=CC=NC=C2)C(=CC=C1)Cl | C23H16Cl2FN3O
